** Name: OpAmp5

.MACRO OpAmp5 gnd vdd in1 in2 outSecondStage vbBias vbTrans
mBOBias vbBias vbBias gnd! gnd! nmos4 L=6e-6 W=11e-6
mBV22 vbBiasSecondStage vbBiasSecondStage gnd! gnd! nmos4 L=4e-6 W=296e-6
mBV21 vbBiasSecondStage2 vbBiasSecondStage2 vbBiasSecondStage vbBiasSecondStage nmos4 L=4e-6 W=289e-6
mL11 outFirstStage1 outFirstStage1 vdd! vdd! pmos4 L=1e-6 W=75e-6
mL12 outFirstStage2 outFirstStage2 vdd! vdd! pmos4 L=1e-6 W=75e-6
mB11 dpSource vbBias gnd! gnd! nmos4 L=6e-6 W=252e-6
mT11 outFirstStage1 in1 dpSource dpSource nmos4 L=8e-6 W=339e-6
mT12 outFirstStage2 in2 dpSource dpSource nmos4 L=8e-6 W=339e-6
mB22 innerBias vbBiasSecondStage gnd! gnd! nmos4 L=4e-6 W=296e-6
mB21 outSecondStage vbBiasSecondStage2 innerBias innerBias nmos4 L=4e-6 W=145e-6
mT21 innerTrans outFirstStage1 vdd! vdd! pmos4 L=1e-6 W=103e-6
mT22 outSecondStage vbTrans innerTrans innerTrans pmos4 L=1e-6 W=262e-6
mTC22 vbBiasSecondStage2 vbTrans innerTC2 innerTC2 pmos4 L=1e-6 W=262e-6
mTC21 innerTC2 outFirstStage2 vdd! vdd! pmos4 L=1e-6 W=103e-6
cl outSecondStage gnd! 20e-12
.EOM OpAmp5

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 2.72001 mW
** Area: 11986 (mu_m)^2
** Transit frequency: 13.8301 MHz
** Transit frequency with error factor: 13.83 MHz
** Slew rate: 15.3627 V/mu_s
** Phase margin: 80.2142°
** CMRR: 147 dB
** negPSRR: 62 dB
** posPSRR: 56 dB
** VoutMax: 4.53001 V
** VoutMin: 0.790001 V
** VcmMax: 4.55001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** mB11: 2.2532e+08 muA
** mB21: 1.54346e+08 muA
** mB22: 1.54345e+08 muA
** mBOBias: 9.99901e+06 muA
** mBV21: 1.54321e+08 muA
** mBV22: 1.5432e+08 muA
** mL11: -1.12659e+08 muA
** mL12: -1.12659e+08 muA
** mT11: 1.1266e+08 muA
** mT12: 1.1266e+08 muA
** mT21: -1.54346e+08 muA
** mT22: -1.54345e+08 muA
** mTC21: -1.54321e+08 muA
** mTC22: -1.5432e+08 muA


** Expected Voltages: 
** dpSource: 1.91701  V
** gnd!: 0  V
** in1: 2.5  V
** in2: 2.5  V
** innerBias: 0.496001  V
** innerTC2: 4.08101  V
** innerTrans: 4.08101  V
** outFirstStage1: 4.14501  V
** outFirstStage2: 4.14501  V
** outSecondStage: 2.5  V
** vbBias: 0.658001  V
** vbBiasSecondStage: 0.562001  V
** vbBiasSecondStage2: 1.12601  V
** vbTrans: 3.33601  V
** vdd!: 5  V


.END